US07144899B2
HCl gas was bubbled through a stirred 0° C. solution of 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide (41.1 mg, 0.07 mmol) CH2Cl2 (1.0 mL) for 15 min. The solution was reduced in vacuo. 1-[(2R)-2-amino-2-cyclohexylethanoyl]-N-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide hydrochloride was isolated as a solid. LCMS m/z=496.5.

reactant | HCl | Cl | ClH
reactant | 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide | 0.07 mmol, 1.0 mL, 41.1 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C2=NSN=C2Cl)CCC1)C1CCCCC1 | C27H35Cl2N5O4S
product | 1-[(2R)-2-amino-2-cyclohexylethanoyl]-N-[5-chloro-2-(4-chloro-1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide hydrochloride | Cl.N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C2=NSN=C2Cl)CCC1)C1CCCCC1 | InChI=1S/C22H27Cl2N5O2S.ClH/c23-15-8-9-16(19-20(24)28-32-27-19)14(11-15)12-26-21(30)17-7-4-10-29(17)22(31)18(25)13-5-2-1-3-6-13;/h8-9,11,13,17-18H,1-7,10,12,25H2,(H,26,30);1H/t17-,18+;/m0./s1
